US07947693B2
b) 2-Amino-5-{[(1S)-1-phenylethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-7-ol
Pyridine (0.6 g, 7.6 mmol) was added to 6-amino-2-{[(1S)-1-phenylethyl]thio}pyrimidin-4-ol (1 g, 4 mmol) and KSCN (1.7 g, 16 mmol) in DMF (20 mL). The reaction mixture was cooled to 0° C. and bromine (0.65 g, 4.0 mmol) was then added in one portion. The reaction mixture was poured into water after 2 h and the orange precipitate was filtered off and washed with water. The solid was suspended in a mixture of DMF (6 mL) and water (2 mL) and heated to 110° C. After 30 h, the reaction mixture was poured into water, the yellowish precipitate was filtered off and washed with water and ether. The solid was dried in vacuum at 40° C. to give the title compound (0.8 g, 65% yield).

reactant | Pyridine | 7.6 mmol, 0.6 g | N1=CC=CC=C1 | C5H5N
reactant | 6-amino-2-{[(1S)-1-phenylethyl]thio}pyrimidin-4-ol | 4 mmol, 1 g | NC1=CC(=NC(=N1)S[C@@H](C)C1=CC=CC=C1)O | C12H13N3OS
reactant | KSCN | 16 mmol, 1.7 g | C(#N)[S-].[K+]
reactant | bromine | 4.0 mmol, 0.65 g | BrBr | Br2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Amino-5-{[(1S)-1-phenylethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-7-ol | 0.8 g, 65% yield | NC=1SC2=C(N=C(N=C2O)S[C@@H](C)C2=CC=CC=C2)N1 | C13H12N4OS2
